US06939867B2
4-{2(R)-[2-(tert-Butyl-dimethyl-silanyloxy)-2-pyridin-3-yl-ethylamino]-2-methyl-propyl}-phenylamine (I-2g):
To a slurry of [2(R)-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-[1,1-dimethyl-2-(4-nitro-phenyl)-ethyl]-amine (8.0 g) and 10% palladium-on-carbon (4.0 g) in MeOH (200 mL) was added ammonium formate (22 g) and the resulting mixture was stirred at ambient temperature for 3 h. The reaction mixture was filtered through Celite®, washing with MeOH and the filtrate concentrated in vacuo. The resulting semi-solid was partitioned between ethyl acetate and half-saturated aqueous sodium bicarbonate, the organic phase was separated, dried (Na2SO4) and concentrated in vacuo to afford 6.5 g of the title compound (I-2g) as a dark oil.

reactant | [2(R)-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl]-[1,1-dimethyl-2-(4-nitro-phenyl)-ethyl]-amine | 8.0 g | C(C)(C)(C)[Si](O[C@@H](CNC(CC1=CC=C(C=C1)[N+](=O)[O-])(C)C)C=1C=NC(=CC1)Cl)(C)C | C23H34ClN3O3Si
reactant | ammonium formate | 22 g | C(=O)[O-].[NH4+]
solvent | MeOH | 200 mL | CO | CH4O
catalyst | palladium-on-carbon | 4.0 g | [Pd] | Pd
product | 4-{2(R)-[2-(tert-Butyl-dimethyl-silanyloxy)-2-pyridin-3-yl-ethylamino]-2-methyl-propyl}-phenylamine | 6.5 g | C(C)(C)(C)[Si](O[C@@H](CNC(CC1=CC=C(C=C1)N)(C)C)C=1C=NC=CC1)(C)C | C23H37N3OSi
